US07276518B2
Lithium aluminium hydride (1.16 g, 30.3 mmol) was suspended in dry diethyl ether (100 ml). Anhydrous aluminium chloride (4.04 g, 30.3 mmol) was introduced into this suspension under argon. After five minutes, a solution of benzo[b]thiophene-3-acetonitrile (5.25 g, 30.3 mmol) in dry diethyl ether (70 ml) was added. When the addition was complete, the mixture was heated under reflux for four days. Lithium aluminium hydride (930 mg) and aluminium chloride (500 mg) were added again to the reaction mixture and the mixture was heated under reflux for a further eight hours. For working up, it was neutralized with an aqueous solution of potassium sodium tartrate (80 ml, 20 wt. %). When the evolution of gas had ended, the phases were separated and the cloudy aqueous phase was filtered off with suction over a glass frit. The residue on the frit was washed with ethyl acetate and the clear aqueous phase was extracted with ethyl acetate (3×50 ml). The organic phases were dried over sodium sulfate and filtered and the filtrate was concentrated. Crude benzo[b]thiophen-3-ylethylamine (3.7 g) was obtained as a red-brown oil. Treatment with methanolic hydrochloric acid gave a tacky hydrochloride, which was immediately converted back into the free base. 794 mg (15%) benzo[b]thiophen-3-yl-ethylamine were obtained as a yellow oil, which was employed for the further synthesis.

reactant | Lithium aluminium hydride | 30.3 mmol, 1.16 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | aluminium chloride | 30.3 mmol, 4.04 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | benzo[b]thiophene-3-acetonitrile | 30.3 mmol, 5.25 g | S1C2=C(C(=C1)CC#N)C=CC=C2 | C10H7NS
reactant | Lithium aluminium hydride | 930 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | aluminium chloride | 500 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | potassium sodium tartrate | 80 ml | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 70 ml | C(C)OCC | C4H10O
product | benzo[b]thiophen-3-ylethylamine | 3.7 g | S1C2=C(C(=C1)CCN)C=CC=C2 | C10H11NS
